US09340546B2
A 0.05 M solution of tert-butyl N-[4-(1-methyl-2-oxo-4-pyridyl)-3-pyridyl]carbamate (120 mg, 0.3982 mmol) in Ethanol (8 mL) was passed through a Pd/C CatCart in the H-cube at a flow rate of 0.5 mL/min at 50 C and 50 bar. The procedure was repeated 3 more time. The product solution was concentrated in vacuo to afford tert-butyl (4-(1-methyl-2-oxopiperidin-4-yl)pyridin-3-yl)carbamate as a colourless oil (74 mg, 61%). MS (ES+) 306.1.

reactant | tert-butyl N-[4-(1-methyl-2-oxo-4-pyridyl)-3-pyridyl]carbamate | 0.3982 mmol, 120 mg | CN1C(C=C(C=C1)C1=C(C=NC=C1)NC(OC(C)(C)C)=O)=O | C16H19N3O3
solvent | Ethanol | 8 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl (4-(1-methyl-2-oxopiperidin-4-yl)pyridin-3-yl)carbamate | 74 mg, 61% | CN1C(CC(CC1)C1=C(C=NC=C1)NC(OC(C)(C)C)=O)=O | C16H23N3O3
